US07094908B2
Methyl 2-(1,3-dioxo-1,3-dihydro-benzo[f]isoindol-2-ylmethyl)-3-oxo-butyrate was prepared (18 mg, 51%) in the same manner as described in the above example 6 (1) from methyl 3-(1,3-dioxo-1,3-dihydro-benzo[f]isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (40 mg, 0.11 mmol) and pyridinium p-toluenesulfonate (5 mg), and the obtained product was identified with the following NMR data.

reactant | methyl 3-(1,3-dioxo-1,3-dihydro-benzo[f]isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 0.11 mmol, 40 mg | O=C1N(C(C=2C=C3C(=CC12)C=CC=C3)=O)CC(C(=O)OC)C3(OCCO3)C | C20H19NO6
reactant | pyridinium p-toluenesulfonate | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | Methyl 2-(1,3-dioxo-1,3-dihydro-benzo[f]isoindol-2-ylmethyl)-3-oxo-butyrate | O=C1N(C(C=2C=C3C(=CC12)C=CC=C3)=O)CC(C(=O)OC)C(C)=O | C18H15NO5
